US08030500B2
3-(2-Chloro-pyridin-4-yl)-3-(5-difluoromethoxy-4,6-dimethyl-pyridin-2-yl)-7-fluoro-3H-isoindol-1-ylamine
n-Butyllithium (2.5 M in hexane, 0.144 mL, 0.36 mmol) was added dropwise to a solution of 6-bromo-3-difluoromethoxy-2,4-dimethyl-pyridine (0.29 g, 1.15 mmol) in dry THF (1 mL) at −78° C. The reaction mixture was stirred for 5 minutes and a solution of N-[(2-chloro-4-pyridyl)-(2-cyano-3-fluoro-phenyl)methylene]-2-methyl-propane-2-sulfinamide (0.28 g, 0.77 mmol) in dry THF (1 mL) was added dropwise at −78° C. The stirring was continued for 1 hour, a solution of HCl in CH3OH (1.25M, 1.1 mL) was added dropwise at −78° C. and the mixture was allowed to warm slowly to room temperature and stirred overnight. Dichloromethane (20 mL) and saturated sodium bicarbonate solution (50 mL) were added and the phases separated. The organic layer was washed with H2O, dried over Na2SO4, filtered and concentrated under reduced pressure. The residue was purified by flash column chromatography using 5% CH3OH in DCM to afford the title compound (120 mg, 36%).

reactant | n-Butyllithium | 0.36 mmol, 2.5 M, 0.144 mL | C(CCC)[Li]
reactant | 6-bromo-3-difluoromethoxy-2,4-dimethyl-pyridine | 1.15 mmol, 0.29 g | BrC1=CC(=C(C(=N1)C)OC(F)F)C | C8H8BrF2NO
reactant | N-[(2-chloro-4-pyridyl)-(2-cyano-3-fluoro-phenyl)methylene]-2-methyl-propane-2-sulfinamide | 0.77 mmol, 0.28 g | ClC1=NC=CC(=C1)C(=NS(=O)C(C)(C)C)C1=C(C(=CC=C1)F)C#N | C17H15ClFN3OS
reactant | HCl | Cl | ClH
reactant | sodium bicarbonate | 50 mL | C([O-])(O)=O.[Na+]
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | THF | 1 mL | C1CCOC1 | C4H8O
solvent | CH3OH | 1.25M, 1.1 mL | CO | CH4O
solvent | Dichloromethane | 20 mL | ClCCl | CH2Cl2
product | 3-(2-Chloro-pyridin-4-yl)-3-(5-difluoromethoxy-4,6-dimethyl-pyridin-2-yl)-7-fluoro-3H-isoindol-1-ylamine | 120 mg, 36% | ClC1=NC=CC(=C1)C1(N=C(C2=C(C=CC=C12)F)N)C1=NC(=C(C(=C1)C)OC(F)F)C | C21H16ClF3N4O
